US06762205B1
A mixture composed of 350 mg of 4-[N-(4-benzyloxybenzyl)-N-methylsulfonylamino]phenyl methanesulfonate, 350 mg of 10% palladium-carbon, and 10 ml of dioxane was stirred for 2 days under an atmospheric pressure of hydrogen. The reaction mixture was filtered to remove any insoluble matter, and the solvent was distilled off from the filtrate. Thus, there was obtained 260 mg of 4-[N-(4-hydroxybenzyl)-N-methylsulfonylamino]phenyl methanesulfonate.

reactant | 4-[N-(4-benzyloxybenzyl)-N-methylsulfonylamino]phenyl methanesulfonate | 350 mg | CS(=O)(=O)OC1=CC=C(C=C1)N(S(=O)(=O)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H23NO6S2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 350 mg | [C].[Pd]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[N-(4-hydroxybenzyl)-N-methylsulfonylamino]phenyl methanesulfonate | 260 mg | CS(=O)(=O)OC1=CC=C(C=C1)N(S(=O)(=O)C)CC1=CC=C(C=C1)O | C15H17NO6S2
